* File: NAND2X1.pex.netlist
* Created: Wed Jan  2 18:50:18 2008
* Program "Calibre xRC"
* Version "v2007.2_34.24"
* 
.subckt NAND2X1  Y A B VDD GND
* 
MM2 a_9_6# A GND GND NMOS_VTL L=5e-08 W=5e-07
MM3 Y B a_9_6# GND NMOS_VTL L=5e-08 W=5e-07
MM0 Y A VDD VDD PMOS_VTL L=5e-08 W=5e-07
MM1 VDD B Y VDD PMOS_VTL L=5e-08 W=5e-07
c_5 A 0 0.110167f
c_9 GND 0 0.0763275f
c_14 B 0 0.10534f
c_19 Y 0 0.0641968f
c_23 VDD 0 0.166265f
*
.include "NAND2X1.pex.netlist.NAND2X1.pxi"
*
.ends
*
*
